US04886817
To a solution of 20 g of N-(2-chloroethyl)-N'-(3-pyridyl) urea dissolved in 200 ml of dimethyl sulfoxide, 13 g of KOH powder was added under ice-cooling, and the mixture was stirred at room temperature for 1.5 hours. Further, 3.4 g of KOH powder was added and then 16.8 g of cinnamyl chloride (trans-form) was added under ice-cooling and the mixture was stirred for 20 minutes, followed by stirring at room temperature for 30 minutes. The mixture was diluted with 300 ml of water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, saturated saline water ad dried, and ethyl acetate was distilled off. To the residue was added 100 ml of 70% acetic acid, and the mixture was heated at 90° C. for 10 minutes and then concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed twice with saturated saline water and twice with water, and dried. After distilling the ethyl acetate off, the residue was recrystallized from ethanol to give 21.96 g of (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone.

reactant | N-(2-chloroethyl)-N'-(3-pyridyl) urea | 20 g | ClCCNC(=O)NC=1C=NC=CC1 | C8H10ClN3O
reactant | KOH | 13 g | [OH-].[K+]
reactant | KOH | 3.4 g | [OH-].[K+]
reactant | cinnamyl chloride | 16.8 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | water | 300 ml | O | H2O
product | (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone | 21.96 g, Yield: 78.6% | C(\C=C\C1=CC=CC=C1)N1C(N(CC1)C=1C=NC=CC1)=O | C17H17N3O
